US04908372
To a stirred, room temperature, mixture of isonipecotic acid methyl ester hydrochloride (5.00 g, 2.78×10-2 mole), potassium carbonate (7.70 g, 5.57×10-2 mole), and DMF (100 ml) was added 1-(2-bromoethyl)-4-methoxybenzene (5.99 g, 2.78×10-2 mole). The reaction was then immersed in an oil bath which had been preheated to ca. 90° C. The reaction was heated at ca. 90° C. for ca. 17 hours and was then poured into a separatory funnel containing water and a 2:1 mixture of ethyl acetate:toluene. The two phases were mixed and the aqueous layer was separated. The organic layer was washed two times with H20 and once with saturated aqueous NaCl before being dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving an oil. Purification by flash chromatography (ethyl acetate) and crystallization from cyclohexane gave 1-[2-(4-methoxyphenyl)ethyl]-4-piperidinecarboxylic acid, methyl ester as a colorless solid: 3.98 g (52%), m.p. 66°-68° C.

reactant | isonipecotic acid methyl ester hydrochloride | 2.78×10-2 mole, 5.00 g | Cl.COC(C1CCNCC1)=O
reactant | potassium carbonate | 5.57×10-2 mole, 7.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | 1-(2-bromoethyl)-4-methoxybenzene | 2.78×10-2 mole, 5.99 g | BrCCC1=CC=C(C=C1)OC | C9H11BrO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-[2-(4-methoxyphenyl)ethyl]-4-piperidinecarboxylic acid, methyl ester | COC1=CC=C(C=C1)CCN1CCC(CC1)C(=O)OC | C16H23NO3
